US04517184
By reaction of benzoic acid with 1-bromo-3,4-dimethoxybenzene, in a manner analogous to that of Example 3(a), there is obtained (2-bromo-4,5-dimethoxyphenyl)-phenylmethanone, m.p. 71°-72° C.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-bromo-3,4-dimethoxybenzene | BrC1=CC(=C(C=C1)OC)OC | C8H9BrO2
product | (2-bromo-4,5-dimethoxyphenyl)-phenylmethanone | BrC1=C(C=C(C(=C1)OC)OC)C(=O)C1=CC=CC=C1 | C15H13BrO3
